US07842659B2
2-Methylene pentanal (302 g) and dicyclopentadiene (244 g) were loaded into a 2-L autoclave. The autoclave was sealed and heated to 170° C. The reaction was monitored by Gas Chromatography (“GC”) analysis, which showed the completion after 3 hours. The reaction was cooled to room temperature. The crude product was purified by distillation to yield 2-propylbicyclo[2.2.1]hept-5-ene-2-carbaldehyde (136 g).

reactant | 2-Methylene pentanal | 302 g | C=C(C=O)CCC | C6H10O
reactant | dicyclopentadiene | 244 g | C1C=CC2C1C3CC2C=C3 | C10H12
product | 2-propylbicyclo[2.2.1]hept-5-ene-2-carbaldehyde | 136 g | C(CC)C1(C2C=CC(C1)C2)C=O | C11H16O
